US09447106B2
Step 5: 6-(3-(2-(Dimethylamino)ethoxy)phenyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetra hydropyrazolo[1,5-a]pyrimidine-3-carboxamide
The desired product was prepared from 6-(3-hydroxyphenyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide and 2-chloro-N,N-dimethylethanamine hydrochloride using the procedure similar to step 7 for compound 9. 1H NMR (400 MHz, DMSO-d6) δ 7.52 (d, J=8.4 Hz, 2H), 7.46-7.38 (m, 2H), 7.29 (t, J=7.6 Hz, 1H), 7.18 (t, J=7.6 Hz, 1H), 7.10-7.05 (m, 4H), 6.98-6.96 (m, 2H), 6.90-6.88 (m, 1H), 6.81 (d, J=2.4 Hz, 1H), 4.25-4.20 (m, 1H), 4.16-4.11 (m, 3H), 3.50-3.47 (m, 1H), 3.43-3.38 (m, 2H), 2.96-2.84 (m, 2H) and 2.43 (s, 6H). MS (ESI) m/e [M+1]+ 497.9.

reactant | 6-(3-hydroxyphenyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide | OC=1C=C(C=CC1)C1CNC=2N(C1)N=C(C2C(=O)N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C25H22N4O3
reactant | 2-chloro-N,N-dimethylethanamine hydrochloride | Cl.ClCCN(C)C
product | 6-(3-(2-(Dimethylamino)ethoxy)phenyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetra hydropyrazolo[1,5-a]pyrimidine-3-carboxamide | CN(CCOC=1C=C(C=CC1)C1CNC=2N(C1)N=C(C2C(=O)N)C2=CC=C(C=C2)OC2=CC=CC=C2)C | C29H31N5O3
